US05750754
(RS) Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]-2-methylacetyl]phenoxyacetate
A solution of RS methyl 4-(2-methylbromoacetyl)phenoxyacetate (1.2 g) in acetonitrile (10 ml) was added dropwise over 30 minutes to a stirred solution of 1-(4-pyridyl)piperazine (1.3 g) in acetonitrile (30 ml) and the mixture stirred overnight. The mixture was then filtered and the filtrate evaporated to give an oil. Purification by flash chromatography, eluting first with dichloromethane then successively 2.5%, 3%, 4%, 5% and 10% v/v methanol/dichloromethane gave the title compound, 220 mg as a solid: m.p. 81°-83° C.; NMR (d6DMSO) δ 8.13(2H,d), 8.06(2H,d), 7.02(2H,d), 6.77(2H,d), 4.92(2H,s), 4.33(1H,q), 3.72(3H,s), 3.26(4H,t), 2.63(4H,t), 1.16(3H,d); m/e 384(M+H)+ ; calculated for C21H25N3O4 : C, 65.8; H, 6.6; N, 11.0. found C, 65.7; H, 6.8; N, 10.9%.

reactant | methyl 4-(2-methylbromoacetyl)phenoxyacetate | 1.2 g | CC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)Br | C12H13BrO4
reactant | 1-(4-pyridyl)piperazine | 1.3 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (RS) Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]-2-methylacetyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)C(C(=O)C1=CC=C(OCC(=O)OC)C=C1)C | C21H25N3O4
